US04642308
The prccedure is similar to that described in Example 1, but starting with nicotinic acid (7.4 g), N,N'-carbonyldiimidazole (9.7 g) and 2-amino-7-methoxy-1,8-naphthyridine (7 g). After filtration, washing with water and drying, the crystallised solid formed during the reaction (10.3 g; m.p. 245° C.) is dissolved in boiling 1-propanol (900 cc). After being cooled for 3 hours at 4° C., the crystallised solid is separated by filtration, washed with 1-propanol (3×20 cc) and dried at 50° C. under reduced pressure (0.067 kPa). N-(7-methoxy-1,8-naphthyridin-2-yl)-3-pyridylcarboxamide (8.7 g) is produced, m.p. 247° C.

reactant | nicotinic acid | 7.4 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | 2-amino-7-methoxy-1,8-naphthyridine | 7 g | NC1=NC2=NC(=CC=C2C=C1)OC | C9H9N3O
solvent | 1-propanol | 900 cc | C(CC)O | C3H8O
product | N-(7-methoxy-1,8-naphthyridin-2-yl)-3-pyridylcarboxamide | 8.7 g | COC1=CC=C2C=CC(=NC2=N1)NC(=O)C=1C=NC=CC1 | C15H12N4O2
